US06175015B1
1. 1,2,3,4-tetrahydrocarbazole-2-carboxylic acid
A mixture of 3-ketocyclohexanecarboxlic acid (4.78 g, 33.9 mmol) and phenyihydrazine (3.66 g, 40 mmol) in 35 mL of acetic acid was heated under reflux for one hour, then cooled, diluted with water and acidified with HCl. The resultant solid was collected by filtration, washed with water and dried to give 5.5 g of the title compound as a crystalline solid.

reactant | 3-ketocyclohexanecarboxlic acid | 33.9 mmol, 4.78 g | O=C1CC(CCC1)C(=O)O | C7H10O3
reactant | phenyihydrazine | 40 mmol, 3.66 g | C1(=CC=CC=C1)NN | C6H8N2
reactant | HCl | Cl | ClH
solvent | acetic acid | 35 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 1,2,3,4-tetrahydrocarbazole-2-carboxylic acid | 5.5 g | C1C(CCC=2C3=CC=CC=C3NC12)C(=O)O | C13H13NO2
